US08609688B2
Synthesis of ethyl 1-(3-bromophenyl)piperidine-4-carboxylate
To a solution of 1,3-dibromobenzene (10 g, 42 mmol) in toluene (424 mL), were added ethyl isonipecotate (6.5 mL, 42 mmol), rac-BINAP (2.0 g, 3.2 mmol), NaOtBu (4.9 g, 51 mmol) and Pd2(dba)3 (0.97 g, 1.1 mmol). The mixture was heated at 80° C. for 4 h and diluted with water and ethyl acetate and separated. The organic phase was dried over unhydrous Na2SO4 and evaporated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate 10:0 to 9:1) to give the titled compound (5.6 g, 42%).

reactant | 1,3-dibromobenzene | 42 mmol, 10 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | ethyl isonipecotate | 42 mmol, 6.5 mL | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | rac-BINAP | 3.2 mmol, 2.0 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 51 mmol, 4.9 g | CC(C)(C)[O-].[Na+]
solvent | toluene | 424 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 1.1 mmol, 0.97 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | ethyl 1-(3-bromophenyl)piperidine-4-carboxylate | 5.6 g, 42% | BrC=1C=C(C=CC1)N1CCC(CC1)C(=O)OCC | C14H18BrNO2
